US07495103B2
Acetyl chloride (1 g, 13 mmol) was added dropwise to a mixture of 8-nitro-2,3,4,5-tetrahydro-1H-benzo[b]azepine (1.3 g, 6.8 mmol) and NaHCO3 (1 g, 12 mmol) in CH2Cl2 (50 mL). After stirring for 1 h, the mixture was filtered and the filtrate was concentrated. The residue was dissolved in CH2Cl2, washed with brine, dried over Na2SO4 and concentrated. The residue was purified by column chromatography to give 1-(8-nitro-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl)-ethanone as a yellow solid (1.3 g, 80%).

reactant | Acetyl chloride | 13 mmol, 1 g | C(C)(=O)Cl | C2H3ClO
reactant | 8-nitro-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 6.8 mmol, 1.3 g | [N+](=O)([O-])C=1C=CC2=C(NCCCC2)C1 | C10H12N2O2
reactant | NaHCO3 | 12 mmol, 1 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(8-nitro-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl)-ethanone | 1.3 g, 80% | [N+](=O)([O-])C=1C=CC2=C(N(CCCC2)C(C)=O)C1 | C12H14N2O3
